US07235547B2
Oxidation of 3-(2-methyl-pyridin-4-yl)-benzoic acid methyl ester (26.2 g, 0.11 mol; K4) with H2O2 (30%, 31.5 ml, 0.31 mol) in acetic acid (117 ml) at 70° C. for 27 h and subsequent reaction of the N-oxide in acetic acid anhydride (22 ml) at 135° C. for 30 min yielded after aqueous work-up 3-(2-acetoxymethyl-pyridin-4-yl)-benzoic acid methyl ester.

reactant | 3-(2-methyl-pyridin-4-yl)-benzoic acid methyl ester | 0.11 mol, 26.2 g | COC(C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O | C14H13NO2
reactant | H2O2 | 0.31 mol, 31.5 ml | OO | H2O2
solvent | acetic acid | 117 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid anhydride | 22 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(2-acetoxymethyl-pyridin-4-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=CC(=NC=C1)COC(C)=O)=O | C16H15NO4
